US05962458
1,1'-(Azodicarbonyl)dipiperidine (2.52 g, 10 mmol) in methylene chloride (10 ml) was added dropwise to a solution of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (1.38 g, 3.5 mmol), (prepared as described for the starting material in Example 22), tributylphosphine (2 g, 10.5 mmol) and 4-(3-hydroxypropyl)pyridine (720 mg, 5.25 mmol) in methylene chloride (25 ml) and the mixture stirred for 2.5 hours at ambient temperature. The solvent was removed by evaporation and the residue was triturated with petroleum ether. The solid product was collected by filtration and purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 4-(4-chloro-2-fluoro-5-methoxycarbonyloxyanilino)-6-methoxy-7-(3-(4-pyridyl)propoxy)quinazoline (1.2 g, 67%).

reactant | 1,1'-(Azodicarbonyl)dipiperidine | 10 mmol, 2.52 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 3.5 mmol, 1.38 g | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | tributylphosphine | 10.5 mmol, 2 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-(3-hydroxypropyl)pyridine | 5.25 mmol, 720 mg | OCCCC1=CC=NC=C1 | C8H11NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoro-5-methoxycarbonyloxyanilino)-6-methoxy-7-(3-(4-pyridyl)propoxy)quinazoline | 1.2 g, 67% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCC2=CC=NC=C2)C=C1OC(=O)OC)F | C25H22ClFN4O5
